US05021412
Synthesis of 2-(2,2,2-trifluoroethylimino)-3-(4-t-butylbenzyl)-5-(4-methylphenyl)-tetrahydro-1,3,5-thiadiazin-4-one (compound No. 12)
A solution of 1.42 g of trichloromethyl chloroformate in 20 ml of benzene was added dropwise to a solution of 1.72 g of 1,3,5-tris(4-methylphenyl)-hexahydro-s-triazine in 30 ml of tetrahydrofuran at room temperature with stirring in a nitrogen stream. The reaction solution was stirred at room temperature for 1 hour. Then, 4.0 g of 1-(4-t-butylbenzyl)-3-(2,2,2-trifluoroethyl)thiourea was added at room temperature with stirring, and subsequently 12 ml of a 10% aqueous solution of sodium hydroxide was added. The mixture was stirrerd at room temperature for 6 hours. Water (50 ml) was added to the reaction mixture, and it was extracted with 200 ml of ethyl acetate. The ethyl acetate layer was washed with water and dried, and ethyl acetate was evaporated under reduced pressure. The resulting oily product was purified by column chromatography [silica gel; eluent: hexane/ethyl acetate (10/1)) to give 0.79 g of the captioned compound.

reactant | trichloromethyl chloroformate | 1.42 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 1,3,5-tris(4-methylphenyl)-hexahydro-s-triazine | 1.72 g | CC1=CC=C(C=C1)N1CN(CN(C1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C24H27N3
reactant | 1-(4-t-butylbenzyl)-3-(2,2,2-trifluoroethyl)thiourea | 4.0 g | C(C)(C)(C)C1=CC=C(CNC(=S)NCC(F)(F)F)C=C1 | C14H19F3N2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | Water | 50 ml | O | H2O
product | 2-(2,2,2-trifluoroethylimino)-3-(4-t-butylbenzyl)-5-(4-methylphenyl)-tetrahydro-1,3,5-thiadiazin-4-one | 0.79 g | FC(CN=C1SCN(C(N1CC1=CC=C(C=C1)C(C)(C)C)=O)C1=CC=C(C=C1)C)(F)F | C23H26F3N3OS
